US06214877B1
To stirred solution of K2CO3 (2 M in H2O) (1.9 mL, 3.6 mmol) at rt was added dioxane (14.3 mL), 3-bromo-4-(2-hydroxyethoxy)-5-iodo-benzoic acid ethyl ester (0.503 g, 1.21 mmol) and 3-trifluoromethyl-phenyl boronic acid (0.299 g, 1.57 mmol). The reaction mixture was purged with N2 for a few minutes and then [1,1′ bis (diphenylphosphino)ferrocene]dichloropalladium(II), complex with CH2Cl2 (0.030 g 0.036 mmol) was added. The reaction was stirred at rt for 1.5 h and then heated at reflux for 2 h. After cooling to rt, it was poured into a 0.1 N HCl solution and extracted with EtOAc. The combined organic layers were washed with brine and dried over MgSO4. After concentration in vacuo, the residue was first purified by flash chromatography (25% EtOAc:hexane) and then HPLC [60% CH2Cl2 (6% MTBE):40% hexane to afford 5-bis-(m-trifluoromethylphenyl)-4-(2-hydroxyethoxy)-benzoic acid ethyl ester (0.215 g, 36%) as a white solid 1H NMR (CDCl3) δ8.09 (s, 2H); 7.94 (m, 2H); 7.86-7.80 (m, 2H); 7.71-7.58 (m, 4H); 4.42 (q, 2H) 3.63 (m, 4H); 1.42 (t, 3H) and 3-Bromo-5-(m-trifluoromethylphenyl)-4-(2-hydroxyethoxy)-benzoic acid ethyl ester (0.173 g, 33%) as a white solid 1H NMR (CDCl3) δ8.29 (d, 1H); 8.00 (d, 1H); 7.86 (m, 1H); 7.80-7.55 (m, 3H); 4.40 (q, 2H); 3.74-3.60 (in, 4H); 1.92 (t, 1H); 1.40 (t, 3H).

reactant | K2CO3 | 3.6 mmol, 2 M, 1.9 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-bromo-4-(2-hydroxyethoxy)-5-iodo-benzoic acid ethyl ester | 1.21 mmol, 0.503 g | C(C)OC(C1=CC(=C(C(=C1)I)OCCO)Br)=O | C11H12BrIO4
reactant | 3-trifluoromethyl-phenyl boronic acid | 1.57 mmol, 0.299 g | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | CH2Cl2 | 0.036 mmol, 0.030 g | C(Cl)Cl | CH2Cl2
reactant | HCl | 0.1 N | Cl | ClH
catalyst | [1,1′ bis (diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dioxane | 14.3 mL | O1CCOCC1 | C4H8O2
product | 3-Bromo-5-(m-trifluoromethylphenyl)-4-(2-hydroxyethoxy)-benzoic acid ethyl ester | 0.173 g, 33% | C(C)OC(C1=CC(=C(C(=C1)C1=CC(=CC=C1)C(F)(F)F)OCCO)Br)=O | C18H16BrF3O4
